US07297795B2
A suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-[(4-ethoxy-3-iodophenyl)amino]prop-2-enamide (2.0 g, 3.76 mmol) in 100 mL of toluene was heated to reflux and phosphorous oxychloride (3.5 mL, 37.6 mmol) was added dropwise via syringe. This suspension was heated at reflux for 6 hours and additional phosphorous oxychloride (3.5 mL, 37.6 mmol) was added to slowly give a dark solution. After 72 hours the mixture was cooled to room temperature, the solid was filtered and washed with toluene and ether. The light brown solid was dried under reduced pressure at ˜40° C., overnight, to provide 1.47 g (76%) of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-iodo-3-quinolinecarbonitrile as a yellow solid, mp 213-215° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.48 (t, 3H, J=6.9 Hz), 4.32 (q, 2H, J=6.9 Hz), 3.88 (s, 3H), 7.53 (s, 1H), 7.87 (s, 1H), 8.06 (s, 1H), 8.49 (s, 1H), 9.02 (s, 1H), 11.14 (bs, 1H); MS (ES) m/z514.1 (M+H)+

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-[(4-ethoxy-3-iodophenyl)amino]prop-2-enamide | 3.76 mmol, 2.0 g | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CC(=C(C=C1)OCC)I | C19H16Cl2IN3O3
reactant | phosphorous oxychloride | 37.6 mmol, 3.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 37.6 mmol, 3.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-iodo-3-quinolinecarbonitrile | 1.47 g, 76% | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCC)I)C#N | C19H14Cl2IN3O2
